US05252587
2,3,6-Tri-O-benzyl-1,5-dideoxy-1,5-imino-D-glucitol (0.2 g, 0.46 mmol) is dissolved in a 9:1 mixture of methanol and formic acid (10 ml) under an inert atmosphere and palladium 10% on charcoal (0.4 g) is added. The mixture is stirred overnight at room temperature. The catalyst is removed by filtration. The solvents are evaporated under reduced pressure. The residue is dissolved in methanol and the solution is filtered through a membrane (Millex-SR 0.5 μM). Evaporation of solvent gives a sticky solid which is further triturated in ethanol to give the expected 1,5-dideoxy-1,5-imino-D-glucitol as a beige powder (60 mg, 80%).

reactant | 2,3,6-Tri-O-benzyl-1,5-dideoxy-1,5-imino-D-glucitol | 0.46 mmol, 0.2 g | C(C1=CC=CC=C1)O[C@H]1CN[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C27H31NO4
solvent | methanol | CO | CH4O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | palladium | [Pd] | Pd
product | 1,5-dideoxy-1,5-imino-D-glucitol | 60 mg, 80% | N1C[C@H](O)[C@@H](O)[C@H](O)[C@H]1CO | C6H13NO4
